US08258138B2
ii) (4-Amino-phenyl)-(4-phenyl-piperazin-1-yl)-methanone
A solution of tin chloride dihydrate (5.44 g, 24.1 mmol) in concentrated hydrochloric acid (32 ml) was added slowly to a cooled, stirred solution of (4-nitro-phenyl)-(4-phenyl-piperazin-1-yl)-methanone (1.0 g, 3.2 mmol) in anhydrous diethyl ether (32 ml). The resulting mixture was stirred for 1 hour at room temperature, then cooled and quenched carefully with 10M sodium hydroxide (aq.) until slightly basic (˜pH 9). The aqueous mixture was extracted with ethyl acetate (100 ml) and the organic extracts dried over magnesium sulfate then concentrated in vacuo to the title compound as a cream solid (667 mg, 73% yield). HPLC retention time 6.2 min. Mass spectrum (ES+) m/z 282 (M+H).

reactant | tin chloride dihydrate | 24.1 mmol, 5.44 g | O.O.[Sn](Cl)(Cl)(Cl)Cl
reactant | (4-nitro-phenyl)-(4-phenyl-piperazin-1-yl)-methanone | 3.2 mmol, 1.0 g | [N+](=O)([O-])C1=CC=C(C=C1)C(=O)N1CCN(CC1)C1=CC=CC=C1 | C17H17N3O3
solvent | hydrochloric acid | 32 ml | Cl | ClH
solvent | diethyl ether | 32 ml | C(C)OCC | C4H10O
product | (4-Amino-phenyl)-(4-phenyl-piperazin-1-yl)-methanone | 667 mg, 73% yield | NC1=CC=C(C=C1)C(=O)N1CCN(CC1)C1=CC=CC=C1 | C17H19N3O
